US03972886
A. 5-Chlorosulfonyl-3-ethylthio-4-phenoxybenzoic acid
To a solution of 5-amino-3-ethylthio-4-phenoxybenzoic acid (1.16 g) in 1 N sodium hydroxide (4 ml), sodium nitrite (0.28 g) is added. The solution is added slowly to a mixture of acetic acid (10 ml) and concentrated hydrochloric acid (10 ml) while stirring and keeping the temperature of 2°-5°C. The resulting diazonium mixture is poured into acetic acid (20 ml), saturated with sulphur dioxide and containing copper chloride (0.2 g CuCl2, 2 H2O). The reaction mixture is allowed to reach room temperature while stirring. After cooling, the precipitated 3-ethylthio-5-chlorosulfonyl-4-phenoxybenzoic acid is collected by filtration, washed with aqueous acetic acid, and dried in vacuo at room temperature.

reactant | 5-amino-3-ethylthio-4-phenoxybenzoic acid | 1.16 g | NC=1C(=C(C=C(C(=O)O)C1)SCC)OC1=CC=CC=C1 | C15H15NO3S
reactant | sodium nitrite | 0.28 g | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 10 ml | Cl | ClH
reactant | sulphur dioxide | S(=O)=O | O2S
solvent | sodium hydroxide | 1 N, 4 ml | [OH-].[Na+]
catalyst | copper chloride | 0.2 g | [Cu](Cl)Cl
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 5-Chlorosulfonyl-3-ethylthio-4-phenoxybenzoic acid | ClS(=O)(=O)C=1C(=C(C=C(C(=O)O)C1)SCC)OC1=CC=CC=C1 | C15H13ClO5S2
